US07485732B2
Step 3 3-[(S)-(4-chlorophenyl)(3-{(1S)-2-fluoro-1-[3-fluoro-5-(methylthio)phenyl]-2-methylpropyl}azetidin-1-yl)methyl]benzonitrile
A sample of 0.233 mg (0.86 mmole) of 3-{(1S)-2-fluoro-1-[3-fluoro-5-(methylthio)phenyl]-2-methylpropyl}azetidine was alkylated with 263 mg (0.86 mmole) of 3-[bromo(4-chlorophenyl)methyl]benzonitrile and 0.975 mg (3 mmole) of Cs2CO3 as described in Step 2 of Example 79 to afford the title compound; Mass Spectrum: m/e=497 (M+1, 35Cl); 499 (M+1, 37Cl)

reactant | 3-{(1S)-2-fluoro-1-[3-fluoro-5-(methylthio)phenyl]-2-methylpropyl}azetidine | 0.86 mmole, 0.233 mg | FC([C@H](C1=CC(=CC(=C1)SC)F)C1CNC1)(C)C | C14H19F2NS
reactant | 3-[bromo(4-chlorophenyl)methyl]benzonitrile | 0.86 mmole, 263 mg | BrC(C=1C=C(C#N)C=CC1)C1=CC=C(C=C1)Cl | C14H9BrClN
reactant | Cs2CO3 | 3 mmole, 0.975 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
product | 3-[(S)-(4-chlorophenyl)(3-{(1S)-2-fluoro-1-[3-fluoro-5-(methylthio)phenyl]-2-methylpropyl}azetidin-1-yl)methyl]benzonitrile | ClC1=CC=C(C=C1)[C@@H](C=1C=C(C#N)C=CC1)N1CC(C1)[C@H](C(C)(C)F)C1=CC(=CC(=C1)SC)F | C28H27ClF2N2S
